US05610161
A suspension of 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene sulphate (13 g prepared in a similar manner to that described in Example 5) in 1M aqueous sodium hydroxide solution (200 ml) was stirred at ambient temperature for 1 hour, then the free base was extracted into ether (3×150 ml). The extracts were combined, dried over magnesium sulphate, concentrated to a volume of 150 ml, and filtered. The filtrate was cooled in ice and saturated with hydrogen chloride. The resulting solid was collected by filtration, washed with ether, and dried in vacuo at ambient temperature for 24 hours and at 60° C. for 8 hours to give 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene hydrochloride as a white solid. Yield 8.6 g, mp >300° C.

reactant | 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene sulphate | S(=O)(=O)(O)O.ClC1=CC=C(C=C1)C1=CCCNC12CCCCC2
solvent | sodium hydroxide | 1M, 200 ml | [OH-].[Na+]
product | 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene hydrochloride | Cl.ClC1=CC=C(C=C1)C1=CCCNC12CCCCC2 | InChI=1S/C16H20ClN.ClH/c17-14-8-6-13(7-9-14)15-5-4-12-18-16(15)10-2-1-3-11-16;/h5-9,18H,1-4,10-12H2;1H
